US07211672B2
Pd2(dba)3 (0.05 equ.), and rac-BINAP (0.1 equ.) were added to a flask with degassed toluene and stirred for 1 h. To the above solution was added 2-bromopyridine (1.1 equ.) and NaOtBu (1.1 equ.) and stirred for 30 min. (±)-Cis-(4-amino-2-methyl-3,4-dihydro-2H-quinolin-1-yl)-(3-methoxy-phenyl)-methanone was dissolved in degassed toluene and added to the solution and heated to 100° C. for 17 h. The reaction was diluted with ether and filtered through celite and concentrated down. The compound was purified by Biotage with 20% EtOAc/80% Hexane to 30% EtOAc/70% Hexane to 50% EtOAc/50% Hexane to give 43% of the product. (±)-Cis-(3-methoxy-phenyl)-[2-methyl-4-(pyridin-2-ylamino)-3,4-dihydro-2H-quinolin-1-yl]-methanone was acetylated with acetyl chloride as previously described to give (±)-cis-N-[1-(3-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-pyridin-2-yl-acetamide.

reactant | (±)-Cis-(3-methoxy-phenyl)-[2-methyl-4-(pyridin-2-ylamino)-3,4-dihydro-2H-quinolin-1-yl]-methanone | COC=1C=C(C=CC1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)NC1=NC=CC=C1)C | C23H23N3O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | (±)-cis-N-[1-(3-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-N-pyridin-2-yl-acetamide | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=NC=CC=C2)C)C=CC1 | C25H25N3O3
